US07432392B2
b) Phenylmalonic Acid Diethylamide
The phenylmalonic acid dichloride (8.99 g) obtained in Reference Example 1a) was added dropwise to a mixture of ethylamine/tetrahydrofuran (2M, 45.5 mL), triethylamine (13.9 mL) and methylene chloride (80 mL) at −20° C. The reaction temperature was elevated to room temperature, and the mixture was stirred overnight. After addition of 3N hydrochloric acid, the reaction solution was diluted with ethyl acetate, and the organic phase was washed successively with saturated brine, saturated aqueous sodium bicarbonate solution, and saturated brine, dried over sodium sulfate, and then concentrated to give a solid. The solid was washed with ethyl acetate-hexane to give the title compound (4.85 g) as a white powder.

reactant | phenylmalonic acid dichloride | 8.99 g | C1(=CC=CC=C1)C(C(=O)Cl)C(=O)Cl | C9H6Cl2O2
reactant | ethylamine tetrahydrofuran | 2M, 45.5 mL | C(C)N.O1CCCC1
reactant | triethylamine | 13.9 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | Phenylmalonic Acid Diethylamide | 4.85 g | C(C)N(C(C(C(=O)O)C1=CC=CC=C1)=O)CC | C13H17NO3
